US04968708
3-(1-Hydroxyethyl)-2-methylimidazo[2,1-b]benzothiazole:
3-Formyl-2-methylimidazo[2,1-b]benzothiazole, 4.3 g, was suspended in 40 ml of dry tetrahydrofuran. Under ice cooling, a tetrahydrofuran solution (0.02 mol) of methyl magnesium bromide was added to the suspension in a nitrogen flow followed by stirring at room temperature for 30 minutes. After completion of the reaction, the reaction mixture was acidified with diluted acetic acid. The solvent was removed under reduced pressure followed by extraction with ethyl acetate. The residue obtained from the ethyl acetate phase was crystallized with ether to give 4.1 g of the title compound.

reactant | 3-Formyl-2-methylimidazo[2,1-b]benzothiazole | C(=O)C1=C(N=C2SC3=C(N21)C=CC=C3)C | C11H8N2OS
reactant | methyl magnesium bromide | C[Mg]Br
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.02 mol | O1CCCC1 | C4H8O
product | 3-(1-Hydroxyethyl)-2-methylimidazo[2,1-b]benzothiazole | 4.1 g | OC(C)C1=C(N=C2SC3=C(N21)C=CC=C3)C | C12H12N2OS
